US04933355
A mixture comprising 25 g of carbonyldiimidazole, 30.87 g of ethyl 2-aminothiazol-4-ylglyoxylate and 300 ml of tetrahydrofuran was stirred at room temperature for 1 day. After completion of the reaction, the crystals which precipitated out were collected by filtration and washed with ethyl acetate to give crude ethyl 2-(1-imidazolylcarbonylamino)thiazol-4-ylglyoxylate.

reactant | carbonyldiimidazole | 25 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 30.87 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | ethyl 2-(1-imidazolylcarbonylamino)thiazol-4-ylglyoxylate | N1(C=NC=C1)C(=O)NC=1SC=C(N1)C(C(=O)OCC)=O | C11H10N4O4S
